US04205990
0.05 mole of 1-hydroxy-2-naphthoic acid was dissolved in 70 ml of DMF, and 10 ml of a 40% aqueous solution of sodium hydroxide was added dropwise to the solution while introducing nitrogen gas. Then, 0.05 mole of ethyl α-bromo-propionate was added dropwise and the mixture was agitated at 40° C. for 3 to 4 hours to effect reaction. After completion of the reaction, the reaction mixture was poured into ice-hydrochloric acid, and crystals were recovered by filtration and recrystallized from acetonitrile to obtain a compound having a melting point of 178° C. Then, 0.01 mole of 1-hydroxy-4-[1-(ethoxycarbonyl)-ethoxy]-2-naphthoic acid so obtained and 0.01 mole of N-(δ-2,4-di-tert-amylphenoxy)butylamine were dissolved in 60 ml of dry dioxane, and 0.01 mole of dicyclohexylcarbodiimide was added to the solution. The reaction was conducted at room temperature under agitation for 2 hours. After completion of the reaction, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure and separated by column chromatography to obtain a compound having a melting point of 75° C. (the yield being 52%). From the results of the elementary analysis, it was confirmed that this compound was the compound (1) illustrated above.

reactant | 1-hydroxy-2-naphthoic acid | 0.05 mole | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl α-bromo-propionate | 0.05 mole | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 1-hydroxy-4-[1-(ethoxycarbonyl)-ethoxy]-2-naphthoic acid | 0.01 mole | OC1=C(C=C(C2=CC=CC=C12)OC(C)C(=O)OCC)C(=O)O | C16H16O6
